US08389717B2
[4-((2S,6R)-2,6-Dimethyl-morpholin-4-yl)-6-methoxy-[1,3,5]triazin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine and cis-2,6-dimethylmorpholine in analogy to example 1c. It was purified by column chromatography on Si—NH2 gel (Isolute) using ethyl acetate as eluent to give the title compound as a yellowish solid in 58% yield.

reactant | (4-chloro-6-methoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C15H15ClN6O2
reactant | cis-2,6-dimethylmorpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
product | [4-((2S,6R)-2,6-Dimethyl-morpholin-4-yl)-6-methoxy-[1,3,5]triazin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | C[C@H]1CN(C[C@H](O1)C)C1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C21H27N7O3
